US08912324B2
A stirred mixture of (4-fluorophenyl)(4-(5-methyl-4H-pyrazol-3-ylamino)quinazolin-2-yl)methanone (16.66 g, 48 mmol) and [(R)-P-Phos RuCl2 (R)-DAIPEN] (217 mg, 0.192 mmol) at room temperature was subjected to five cycles of pressurizing with nitrogen to 40 psi followed by depressurization. Then 1M KOtBu/tBuOH (576 μL, 0.0.576 mmol) in 9:11-PrOH/H2O (4 mL) was added and the mixture was subjected to five cycles of pressurizing with nitrogen to 40 psi followed by depressurization. The stirred mixture was then subjected to ten cycles of pressurizing with hydrogen to 435 psi followed by depressurization. The mixture was then stirred at 900 rpm under hydrogen (435 psi) at 40° C. for 18 hrs. The mixture was allowed to cool to room temperature and then carefully vented. The resulting precipitate was collected by filtration and washed with cold MeOH (100 mL) to afford (S)-(4-fluorophenyl)(4-((5-methyl-1H-pyrazol-3-yl)amino)quinazolin-2-yl)methanol as a white solid (13.8 g). Chiral HPLC indicated a >99% enantiomeric excess of the earlier eluting enantiomer.

reactant | (4-fluorophenyl)(4-(5-methyl-4H-pyrazol-3-ylamino)quinazolin-2-yl)methanone | 48 mmol, 16.66 g | FC1=CC=C(C=C1)C(=O)C1=NC2=CC=CC=C2C(=N1)NC1=NN=C(C1)C | C19H14FN5O
reactant | KOtBu tBuOH | 1M, 576 μL | CC(C)(C)[O-].[K+].CC(C)(C)O
reactant | hydrogen | [H][H] | H2
catalyst | (R)-P-Phos RuCl2 (R)-DAIPEN | CC(C)[C@H](C(C1=CC=C(C=C1)OC)(C2=CC=C(C=C2)OC)N)N.COC1=NC(=C(C(=C1)P(C2=CC=CC=C2)C3=CC=CC=C3)C4=C(N=C(C=C4P(C5=CC=CC=C5)C6=CC=CC=C6)OC)OC)OC.Cl[Ru]Cl
product | (S)-(4-fluorophenyl)(4-((5-methyl-1H-pyrazol-3-yl)amino)quinazolin-2-yl)methanol | 13.8 g | FC1=CC=C(C=C1)[C@H](O)C1=NC2=CC=CC=C2C(=N1)NC1=NNC(=C1)C | C19H16FN5O
